US06008237
A solution of 4-(4'-methylphenoxy)phenol (4.75 g, 23.30 mmol), potassium carbonate (4.17 g, 30.30 mmol) and allyl bromide (2.22 mL, 25.60 mmol) in DMF (50 mL) was stirred for 5 h at 60° C. After cooling, the reaction mixture was neutralized with 1 N HCl and extracted with ethyl acetate. The organic extract was washed with brine, dried over sodium sulfate, filtered and concentrated to afford an oil which was chromatographed on silica gel (15% ethyl acetate/hexane) to afford 4-(4'-methylphenoxy)phenyl allyl ether.

reactant | 4-(4'-methylphenoxy)phenol | 23.30 mmol, 4.75 g | CC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H12O2
reactant | potassium carbonate | 30.30 mmol, 4.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 25.60 mmol, 2.22 mL | C(C=C)Br | C3H5Br
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-(4'-methylphenoxy)phenyl allyl ether | C(C=C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C | C16H16O2
